US09062004B2
Synthesis of 4-Chloro-5-methylamino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one
4,5-Dichloro-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one (0.3 g, 1.475 mmoles) was dissolved in DMSO (20 mL) and a 40% aqueous solution of methylamine (0.6 mL, 1.7 mmoles) was added with stirring. Heated at 100° C. overnight. Allowed to cool and then poured into water. A solid precipitated out and was filtered off. Purified using a silica cartridge eluted with ethyl acetate:isohexane (3:7) to give the product as a cream solid (150 mg). 1H NMR (300 MHz CDCl3) 7.65 (s, 1H), 5.35 (m, 1H), 4.7 (brs, 1H), 3.05 (d, 3H, J=5 Hz), 1.55 (m, 4H), 1.3 (m, 1H), 1.15 (m, 1H), 1.15 (s, 6H), 0.95 (s, 6H).

reactant | 4,5-Dichloro-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | 1.475 mmoles, 0.3 g | ClC=1C(N(N=CC1Cl)C1CC(CC(C1)(C)C)(C)C)=O | C14H20Cl2N2O
reactant | methylamine | 1.7 mmoles, 0.6 mL | CN | CH5N
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4-Chloro-5-methylamino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | 150 mg | ClC=1C(N(N=CC1NC)C1CC(CC(C1)(C)C)(C)C)=O | C15H24ClN3O
